US04908394
A two liter autoclave was charged with 142 g of (3-chloropropyl)-2,4-dinitrobenzoate, 1275 ml of toluene and 4.5 g of a 5% palladium on carbon/50% water catalyst. The mixture was hydrogenated at 800 psi hydrogen pressure while maintaining the temperature below 100° C. with cooling. The mixture was cooled and 350 ml of tetrahydrofuran was added to dissolve the solid that had precipitated from the toluene. The resulting solution was filtered to remove the catalyst and the solvents removed at reduced pressure to give 113 g of (3-chloropropyl)-2,4-diaminobenzoate, a white solid, mp 97° C.

reactant | (3-chloropropyl)-2,4-dinitrobenzoate | 142 g | ClCCCOC(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C10H9ClN2O6
reactant | toluene | 1275 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | (3-chloropropyl)-2,4-diaminobenzoate | 113 g | ClCCCOC(C1=C(C=C(C=C1)N)N)=O | C10H13ClN2O2
